US08859574B2
A solution of HATU (108 mg, 0.28 mmol), 3-chloropropanoic acid (30 mg, 0.28 mmol) and DIEA (0.1 mL) in DMF (1 mL) was stirred at rt. After 3 min, this solution was transferred to a solution of 5-chloro-N-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine solution (111 mg, 0.27 mmol) in DMF (10 mL). The resulting mixture was stirred at rt overnight. The reaction was quenched with water (20 mL) and extracted with EtOAc (3×30 mL). The combined EtOAc layers were washed with brine (10 mL), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica chromatography (0-10% MeOH in DCM gradient with 1% NH3 additive) to give 1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)prop-2-en-1-one as a light brown oil; ESMS m/z 466.1 (M+H+).

reactant | HATU | 0.28 mmol, 108 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloropropanoic acid | 0.28 mmol, 30 mg | ClCCC(=O)O | C3H5ClO2
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-N-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.27 mmol, 111 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)C)NC1=NNC(=C1)C | C21H26ClN7
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)prop-2-en-1-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CCN(CC1)C(C=C)=O)C)NC1=NNC(=C1)C | C24H28ClN7O
